US04594448
In a 4 liter three-neck round bottomed flask equipped with a thermometer, a reflux condenser with distillation attachment, and a stirrer, 852 g (6 mol) 3-cyclohexyl-1-propanol, 1800 g (18 mol) methyl methacrylate, 0.18 g p-methoxyphenol, and 26 g isopropyl titanate were heated to boiling, while passing air through the mixture, and a methanol/methyl methacrylate azeotrope was drawn off, until complete conversion was achieved (c. 3.5 hr). The excess methyl methacrylate was removed in a rotary evaporator, and the residue was distilled. 3-Cyclohexylpropyl methacrylate was obtained in 91.5% yield. Purity as determined by gas-chromatography:>98% B.p. (0.8 mm):88° C. nD20 :1.464.

reactant | 3-cyclohexyl-1-propanol | 6 mol, 852 g | C1(CCCCC1)CCCO | C9H18O
reactant | methyl methacrylate | 18 mol, 1800 g | C(C(=C)C)(=O)OC | C5H8O2
reactant | p-methoxyphenol | 0.18 g | COC1=CC=C(C=C1)O | C7H8O2
reactant | methanol methyl methacrylate | CO.C(C(=C)C)(=O)OC
catalyst | isopropyl titanate | 26 g | CC(C)[O-].CC(C)[O-].CC(C)[O-].CC(C)[O-].[Ti+4]
product | 3-Cyclohexylpropyl methacrylate | 91.5% yield | C(C(=C)C)(=O)OCCCC1CCCCC1 | C13H22O2
